US04251613
After mixing 6.0 g of 9,10-bis(p-nitrostyryl)anthracene, 12.0 g of iron powder and 200 ml of N,N-dimethyl formamide together, by adding dilute hydrochloric acid prepared by employing 5 ml of concentrated hydrochloric acid and 17 ml of water to the resulting mixture and intensely stirring, reaction was effected at a temperature of 90° to 100° C. for an hour. After completing the reaction, the pH value of the reactant mixture was adjusted to be 8 by adding a 5% aqueous solution of sodium carbonate while heating as above, and the undissolved matter was filtered. Then, by diluting the resulting filtrate with 70 ml of water, there were separated yellowish brown-colored crystals. These crystals were collected by filtering, washed in water and dried, whereby there were obtained 5.0 g (yield rate: 96.2%) of 9,10-bis(p-aminostyryl)anthracene. The melting point of this crystal was in the range of from 281.5° to 20° C. (decomposition point).

reactant | 9,10-bis(p-nitrostyryl)anthracene | 6.0 g | [N+](=O)([O-])C1=CC=C(C=CC=2C3=CC=CC=C3C(=C3C=CC=CC23)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C30H20N2O4
reactant | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 12.0 g | [Fe] | Fe
solvent | water | 17 ml | O | H2O
product | 9,10-bis(p-aminostyryl)anthracene | 5.0 g, 96.2% | NC1=CC=C(C=CC=2C3=CC=CC=C3C(=C3C=CC=CC23)C=CC2=CC=C(C=C2)N)C=C1 | C30H24N2
